US07816557B2
Step B. 4-[1-(6-Chloro-5-methyl-pyridin-3-yloxy)-3,3-dimethyl-butyl]-benzoic acid
To the solution of 4-[1-(6-chloro-5-methyl-pyridin-3-yloxy)-3,3-dimethyl-butyl]-benzoic acid methyl ester (440 mg) in methanol (30 mL) is added sodium hydroxide (5 N aqueous, 2 mL) and stirred for 5 h. The reaction mixture is concentrated and acidified by 5 N HCl (2 mL), extracted with ethyl acetate. Combined organic layers are washed with water and brine, dried over sodium sulfate. Concentration gives the titled compound (414 mg).

reactant | 4-[1-(6-chloro-5-methyl-pyridin-3-yloxy)-3,3-dimethyl-butyl]-benzoic acid methyl ester | 440 mg | COC(C1=CC=C(C=C1)C(CC(C)(C)C)OC=1C=NC(=C(C1)C)Cl)=O | C20H24ClNO3
reactant | sodium hydroxide | 5 N, 2 mL | [OH-].[Na+]
solvent | methanol | 30 mL | CO | CH4O
product | 4-[1-(6-Chloro-5-methyl-pyridin-3-yloxy)-3,3-dimethyl-butyl]-benzoic acid | 414 mg | ClC1=C(C=C(C=N1)OC(CC(C)(C)C)C1=CC=C(C(=O)O)C=C1)C | C19H22ClNO3
